US05159081
3-Bromophenol was combined with an equal molar amount of 2-bromopropane in ethanol and in the presence of potassium carbonate to provide 3-bromoisopropoxybenzene.

reactant | 3-Bromophenol | BrC=1C=C(C=CC1)O | C6H5BrO
reactant | 2-bromopropane | BrC(C)C | C3H7Br
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | C(C)O | C2H6O
product | 3-bromoisopropoxybenzene | BrC=1C=C(C=CC1)OC(C)C | C9H11BrO
